US08729112B2
4-(Bromomethyl)-4-methyloxazolidin-2-one
To a solution of 4-(chloromethyl)-4-methyloxazolidin-2-one (1.49 g, 9.96 mmol) in DMF (100 ml) was added sodium bromide (11.02 g, 107 mmol), and the suspension heated to 80° C. for 6 h. The suspension was concentrated in vacuo and the residue purified by flash chromatography (30% to 60% ethyl acetate in hexanes) to give the title compound as a white solid (1.33 g, 6.86 mmol, 66%). 1H NMR (CDCl3, 400 MHz) δ 1.54 (s, 3H), 3.47 (s, 2H), 4.14 (d, J=9.2 Hz, 1H), 4.35 (d, J=8.8 Hz, 1H), 6.24 (br s, 1H). LRMS (ESI/APCI): 194 [M+H]+.

reactant | 4-(chloromethyl)-4-methyloxazolidin-2-one | 9.96 mmol, 1.49 g | ClCC1(NC(OC1)=O)C | C5H8ClNO2
reactant | sodium bromide | 107 mmol, 11.02 g | [Br-].[Na+]
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 4-(Bromomethyl)-4-methyloxazolidin-2-one | 6.86 mmol, 1.33 g, 66% | BrCC1(NC(OC1)=O)C | C5H8BrNO2
